* C:\Users\HP\Documents\pso_project\s2cff.asc
V1 Vdd 0 1.1
V2 D 0 PULSE(0 1.1 0 10p 10p 50ns 100ns)
V3 Clk 0 PULSE(0 1.1 0 10p 10p 5ns 10ns)
M1 Vdd D N001 Vdd pmos_45 l=45n w=180n
M2 N001 Clk N1 Vdd pmos_45 l=45n w=180n
M3 N1 N2 Vdd Vdd pmos_45 l=45n w=180n
M4 Vdd N1 N2 Vdd pmos_45 l=45n w=180n
M5 Vdd Clk N2 Vdd pmos_45 l=45n w=180n
M6 Vdd N2 N3 Vdd pmos_45 l=45n w=180n
M7 Vdd Clk N002 Vdd pmos_45 l=45n w=180n
M8 N3 N4 N002 Vdd pmos_45 l=45n w=180n
M10 N005 D 0 0 nmos_45 l=45n w={w2}
M11 N2 N1 N004 0 nmos_45 l=45n w={w3}
M12 N004 Clk 0 0 nmos_45 l=45n w={w5}
M13 N004 N1out N1 0 nmos_45 l=45n w={w4}
M14 N3 Clk N003 0 nmos_45 l=45n w={w6}
M15 N003 N1out N006 0 nmos_45 l=45n w={w7}
M16 N006 N2 0 0 nmos_45 l=45n w={w8}
M17 N007 N2 0 0 nmos_45 l=45n w={w10}
M18 N007 N4 N3 0 nmos_45 l=45n w={w9}
M21 Vdd N3 Q Vdd pmos_45 l=45n w=180n
M22 Q N3 0 0 nmos_45 l=45n w=90n
M9 N005 N2 N1 0 nmos_45 l=45n w={w1}
M19 Vdd N3 N4 Vdd pmos_45 l=45n w=180n
M20 N4 N3 0 0 nmos_45 l=45n w=90n
M23 Vdd N1 N1out Vdd pmos_45 l=45n w=180n
M24 N1out N1 0 0 nmos_45 l=45n w=90n
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\HP\Documents\LTspiceXVII\lib\cmp\standard.mos
* PTM Low Power 45nm Metal Gate / High-K / Strained-Si
* nominal Vdd = 1.1V
.model  nmos_45  nmos  level = 54
+version = 4.0             binunit = 1               paramchk= 1               mobmod  = 0
+capmod  = 2               igcmod  = 1               igbmod  = 1               geomod  = 1
+diomod  = 1               rdsmod  = 0               rbodymod= 1               rgatemod= 1
+permod  = 1               acnqsmod= 0               trnqsmod= 0
+tnom    = 27              toxe    = 1.8e-009        toxp    = 1.5e-009        toxm    = 1.8e-009
+dtox    = 3e-010          epsrox  = 3.9             wint    = 5e-009          lint    = 0
+ll      = 0               wl      = 0               lln     = 1               wln     = 1
+lw      = 0               ww      = 0               lwn     = 1               wwn     = 1
+lwl     = 0               wwl     = 0               xpart   = 0               toxref  = 1.8e-009
+vth0    = 0.62261         k1      = 0.4             k2      = 0               k3      = 0
+k3b     = 0               w0      = 2.5e-006        dvt0    = 1               dvt1    = 2
+dvt2    = 0               dvt0w   = 0               dvt1w   = 0               dvt2w   = 0
+dsub    = 0.1             minv    = 0.05            voffl   = 0               dvtp0   = 1e-010
+dvtp1   = 0.1             lpe0    = 0               lpeb    = 0               xj      = 1.4e-008
+ngate   = 1e+023          ndep    = 3.24e+018       nsd     = 2e+020          phin    = 0
+cdsc    = 0               cdscb   = 0               cdscd   = 0               cit     = 0
+voff    = -0.13           nfactor = 1.6             eta0    = 0.0125          etab    = 0
+vfb     = -0.55           u0      = 0.049           ua      = 6e-010          ub      = 1.2e-018
+uc      = 0               vsat    = 130000          a0      = 1               ags     = 0
+a1      = 0               a2      = 1               b0      = 0               b1      = 0
+keta    = 0.04            dwg     = 0               dwb     = 0               pclm    = 0.02
+pdiblc1 = 0.001           pdiblc2 = 0.001           pdiblcb = -0.005          drout   = 0.5
+pvag    = 1e-020          delta   = 0.01            pscbe1  = 8.14e+008       pscbe2  = 1e-007
+fprout  = 0.2             pdits   = 0.08            pditsd  = 0.23            pditsl  = 2300000
+rsh     = 5               rdsw    = 210             rsw     = 80              rdw     = 80
+rdswmin = 0               rdwmin  = 0               rswmin  = 0               prwg    = 0
+prwb    = 0               wr      = 1               alpha0  = 0.074           alpha1  = 0.005
+beta0   = 30              agidl   = 0.0002          bgidl   = 2.1e+009        cgidl   = 0.0002
+egidl   = 0.8             aigbacc = 0.012           bigbacc = 0.0028          cigbacc = 0.002
+nigbacc = 1               aigbinv = 0.014           bigbinv = 0.004           cigbinv = 0.004
+eigbinv = 1.1             nigbinv = 3               aigc    = 0.015211        bigc    = 0.0027432
+cigc    = 0.002           aigsd   = 0.015211        bigsd   = 0.0027432       cigsd   = 0.002
+nigc    = 1               poxedge = 1               pigcd   = 1               ntox    = 1
+xrcrg1  = 12              xrcrg2  = 5
+cgso    = 1.1e-010        cgdo    = 1.1e-010        cgbo    = 2.56e-011       cgdl    = 2.653e-010
+cgsl    = 2.653e-010      ckappas = 0.03            ckappad = 0.03            acde    = 1
+moin    = 15              noff    = 0.9             voffcv  = 0.02
+kt1     = -0.11           kt1l    = 0               kt2     = 0.022           ute     = -1.5
+ua1     = 4.31e-009       ub1     = 7.61e-018       uc1     = -5.6e-011       prt     = 0
+at      = 33000
+fnoimod = 1               tnoimod = 0
+jss     = 0.0001          jsws    = 1e-011          jswgs   = 1e-010          njs     = 1
+ijthsfwd= 0.01            ijthsrev= 0.001           bvs     = 10              xjbvs   = 1
+jsd     = 0.0001          jswd    = 1e-011          jswgd   = 1e-010          njd     = 1
+ijthdfwd= 0.01            ijthdrev= 0.001           bvd     = 10              xjbvd   = 1
+pbs     = 1               cjs     = 0.0005          mjs     = 0.5             pbsws   = 1
+cjsws   = 5e-010          mjsws   = 0.33            pbswgs  = 1               cjswgs  = 3e-010
+mjswgs  = 0.33            pbd     = 1               cjd     = 0.0005          mjd     = 0.5
+pbswd   = 1               cjswd   = 5e-010          mjswd   = 0.33            pbswgd  = 1
+cjswgd  = 5e-010          mjswgd  = 0.33            tpb     = 0.005           tcj     = 0.001
+tpbsw   = 0.005           tcjsw   = 0.001           tpbswg  = 0.005           tcjswg  = 0.001
+xtis    = 3               xtid    = 3
+dmcg    = 0               dmci    = 0               dmdg    = 0               dmcgt   = 0
+dwj     = 0               xgw     = 0               xgl     = 0
+rshg    = 0.4             gbmin   = 1e-010          rbpb    = 5               rbpd    = 15
+rbps    = 15              rbdb    = 15              rbsb    = 15              ngcon   = 1
.model  pmos_45  pmos  level = 54
+version = 4.0             binunit = 1               paramchk= 1               mobmod  = 0
+capmod  = 2               igcmod  = 1               igbmod  = 1               geomod  = 1
+diomod  = 1               rdsmod  = 0               rbodymod= 1               rgatemod= 1
+permod  = 1               acnqsmod= 0               trnqsmod= 0
+tnom    = 27              toxe    = 1.82e-009       toxp    = 1.5e-009        toxm    = 1.82e-009
+dtox    = 3.2e-010        epsrox  = 3.9             wint    = 5e-009          lint    = 0
+ll      = 0               wl      = 0               lln     = 1               wln     = 1
+lw      = 0               ww      = 0               lwn     = 1               wwn     = 1
+lwl     = 0               wwl     = 0               xpart   = 0               toxref  = 1.82e-009
+vth0    = -0.587          k1      = 0.4             k2      = -0.01           k3      = 0
+k3b     = 0               w0      = 2.5e-006        dvt0    = 1               dvt1    = 2
+dvt2    = -0.032          dvt0w   = 0               dvt1w   = 0               dvt2w   = 0
+dsub    = 0.1             minv    = 0.05            voffl   = 0               dvtp0   = 1e-011
+dvtp1   = 0.05            lpe0    = 0               lpeb    = 0               xj      = 1.4e-008
+ngate   = 1e+023          ndep    = 2.44e+018       nsd     = 2e+020          phin    = 0
+cdsc    = 0               cdscb   = 0               cdscd   = 0               cit     = 0
+voff    = -0.126          nfactor = 1.8             eta0    = 0.0125          etab    = 0
+vfb     = 0.55            u0      = 0.021           ua      = 2e-009          ub      = 5e-019
+uc      = 0               vsat    = 90000           a0      = 1               ags     = 1e-020
+a1      = 0               a2      = 1               b0      = 0               b1      = 0
+keta    = -0.047          dwg     = 0               dwb     = 0               pclm    = 0.12
+pdiblc1 = 0.001           pdiblc2 = 0.001           pdiblcb = 3.4e-008        drout   = 0.56
+pvag    = 1e-020          delta   = 0.01            pscbe1  = 8.14e+008       pscbe2  = 9.58e-007
+fprout  = 0.2             pdits   = 0.08            pditsd  = 0.23            pditsl  = 2300000
+rsh     = 5               rdsw    = 250             rsw     = 75              rdw     = 75
+rdswmin = 0               rdwmin  = 0               rswmin  = 0               prwg    = 0
+prwb    = 0               wr      = 1               alpha0  = 0.074           alpha1  = 0.005
+beta0   = 30              agidl   = 0.0002          bgidl   = 2.1e+009        cgidl   = 0.0002
+egidl   = 0.8             aigbacc = 0.012           bigbacc = 0.0028          cigbacc = 0.002
+nigbacc = 1               aigbinv = 0.014           bigbinv = 0.004           cigbinv = 0.004
+eigbinv = 1.1             nigbinv = 3               aigc    = 0.0097          bigc    = 0.00125
+cigc    = 0.0008          aigsd   = 0.0097          bigsd   = 0.00125         cigsd   = 0.0008
+nigc    = 1               poxedge = 1               pigcd   = 1               ntox    = 1
+xrcrg1  = 12              xrcrg2  = 5
+cgso    = 1.1e-010        cgdo    = 1.1e-010        cgbo    = 2.56e-011       cgdl    = 2.653e-010
+cgsl    = 2.653e-010      ckappas = 0.03            ckappad = 0.03            acde    = 1
+moin    = 15              noff    = 0.9             voffcv  = 0.02
+kt1     = -0.11           kt1l    = 0               kt2     = 0.022           ute     = -1.5
+ua1     = 4.31e-009       ub1     = 7.61e-018       uc1     = -5.6e-011       prt     = 0
+at      = 33000
+fnoimod = 1               tnoimod = 0
+jss     = 0.0001          jsws    = 1e-011          jswgs   = 1e-010          njs     = 1
+ijthsfwd= 0.01            ijthsrev= 0.001           bvs     = 10              xjbvs   = 1
+jsd     = 0.0001          jswd    = 1e-011          jswgd   = 1e-010          njd     = 1
+ijthdfwd= 0.01            ijthdrev= 0.001           bvd     = 10              xjbvd   = 1
+pbs     = 1               cjs     = 0.0005          mjs     = 0.5             pbsws   = 1
+cjsws   = 5e-010          mjsws   = 0.33            pbswgs  = 1               cjswgs  = 3e-010
+mjswgs  = 0.33            pbd     = 1               cjd     = 0.0005          mjd     = 0.5
+pbswd   = 1               cjswd   = 5e-010          mjswd   = 0.33            pbswgd  = 1
+cjswgd  = 5e-010          mjswgd  = 0.33            tpb     = 0.005           tcj     = 0.001
+tpbsw   = 0.005           tcjsw   = 0.001           tpbswg  = 0.005           tcjswg  = 0.001
+xtis    = 3               xtid    = 3
+dmcg    = 0               dmci    = 0               dmdg    = 0               dmcgt   = 0
+dwj     = 0               xgw     = 0               xgl     = 0
+rshg    = 0.4             gbmin   = 1e-010          rbpb    = 5               rbpd    = 15
+rbps    = 15              rbdb    = 15              rbsb    = 15              ngcon   = 1
.tran 200ns
.meas t1 find time when V(clk) =0.55 TD=9ns
.meas t2 find time when V(q) =0.55 TD=9ns
.meas clktoq param t2-t1
.meas power AVG-V(vdd)*I(V1)
.meas variable param power*clktoq
.meas delay param t2-t1
.param w1=4.883349388060953e-07
.param w2=4.489715857589623e-07
.param w3=8.465789516067552e-07
.param w4=3.0810190467755837e-07
.param w5=4.4876023379026724e-07
.param w6=3.887598049248226e-07
.param w7=6.764363227093666e-07
.param w8=1.6930128876185195e-07
.param w9=2.2983014455268718e-07
.param w10=3.1638681668825194e-07
.backanno
.end
